CIRCUIT C:\Academics\sem5\Cmos\LABS\evaluation.MSK
*
* IC Technology: CMOS 0.18µm - 6 Metal
*
VDD 1 0 DC 2.00
Vclock1 14 0 DC 0 PULSE(0.00 2.00 0.45N 0.05N 0.05N 0.45N 1.00N)
*
* List of nodes
* "N4" corresponds to n°4
* "s1" corresponds to n°5
* "N6" corresponds to n°6
* "N7" corresponds to n°7
* "N8" corresponds to n°8
* "clock1" corresponds to n°14
*
* MOS devices
MN1 0 0 8 0 N1  W= 1.00U L= 0.20U
MN2 8 14 0 0 N1  W= 1.00U L= 0.20U
MN3 5 0 8 0 N1  W= 1.00U L= 0.20U
MN4 8 0 5 0 N1  W= 1.00U L= 0.20U
MN5 5 1 8 0 N1  W= 1.00U L= 0.20U
MP1 4 0 1 1 P1  W= 1.00U L= 0.20U
MP2 5 14 4 1 P1  W= 1.00U L= 0.20U
MP3 6 0 5 1 P1  W= 1.00U L= 0.20U
MP4 7 0 6 1 P1  W= 1.00U L= 0.20U
MP5 1 1 7 1 P1  W= 1.00U L= 0.20U
*
C2 1 0  3.740fF
C3 1 0  2.070fF
C4 4 0  0.571fF
C5 5 0  3.256fF
C6 6 0  0.571fF
C7 7 0  0.571fF
C8 8 0  2.433fF
C11 1 0  0.098fF
C14 14 0  0.098fF
*
*
* n-MOS BSIM4 :
* low leakage
.MODEL N1 NMOS LEVEL=14 VTHO=0.55 U0=0.038 TOXE= 4.0E-9 LINT=-0.010U 
+K1 =0.170 K2=0.100 DVT0=2.300
+DVT1=0.540 LPE0=23.000e-9 ETA0=0.080
+NFACTOR=  1.7 U0=0.038 UA=2.800e-15
+WINT=0.020U LPE0=23.000e-9 
+KT1=-0.060 UTE=-1.800 VOFF=0.010
+XJ=0.150U NDEP=170.000e15 PCLM=0.290
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p
*
* p-MOS BSIM4:
* low leakage
.MODEL P1 PMOS LEVEL=14 VTHO=-0.60 U0=0.010 TOXE= 4.0E-9 LINT=-0.040U 
+K1 =0.290 K2=0.100 DVT0=2.300
+DVT1=0.540 LPE0=23.000e-9 ETA0=0.080
+NFACTOR=  2.2 U0=0.010 UA=1.000e-15
+WINT=0.020U LPE0=23.000e-9 
+KT1=-0.060 UTE=-1.800 VOFF=0.010
+XJ=0.150U NDEP=170.000e15 PCLM=0.300
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p
*
* Transient analysis
*
* (Winspice)
.options temp=27.0
.control
tran 0.1N 5.00N
print  V(5) V(14) > out.txt
plot  V(5) V(14)
.endc
.END
